US06849657B2
To a solution of sodium hydride (95%, 0.02 g, 0.78 mmol) in 10 mL of anhydrous 1,2-dimethoxyethane at 0° C. under a nitrogen atmosphere was added dimethyl 2-oxoheptylphosphonate (0.17 mL, 0.78 mmol), and the reaction was stirred for 1 hour. A solution of [(Z)-4-((R)-2-formyl-5-oxo-pyrrolidin-1-yl)-but-2-enyloxy]-acetic acid ethyl ester (0.21 g, 0.78 mmol) in 2 mL anhydrous 1,2-dimethoxyethane was added. The reaction was allowed to come to room temperature, stirred for 3 hours and then quenched with an aqueous solution of saturated ammonium chloride. After extraction with ethyl acetate, the organic solution was dried (brine, Na2SO4), evaporated and purified by chromatography to yield {(Z)-4-[(R)-2-oxo-5-((E)-3-oxo-oct-1-enyl)-pyrrolidin-1-yl]-but-2-enyloxy}-acetic acid ethyl ester as an oil. This material was taken directly on to the next step.

reactant | sodium hydride | 0.78 mmol, 0.02 g | [H-].[Na+]
reactant | dimethyl 2-oxoheptylphosphonate | 0.78 mmol, 0.17 mL | O=C(CP(OC)(OC)=O)CCCCC | C9H19O4P
reactant | [(Z)-4-((R)-2-formyl-5-oxo-pyrrolidin-1-yl)-but-2-enyloxy]-acetic acid ethyl ester | 0.78 mmol, 0.21 g | C(C)OC(COC\C=C/CN1[C@H](CCC1=O)C=O)=O | C13H19NO5
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 2 mL | COCCOC | C4H10O2
product | {(Z)-4-[(R)-2-oxo-5-((E)-3-oxo-oct-1-enyl)-pyrrolidin-1-yl]-but-2-enyloxy}-acetic acid ethyl ester | C(C)OC(COC\C=C/CN1C(CC[C@@H]1\C=C\C(CCCCC)=O)=O)=O | C20H31NO5
